US05204326
Preparation of Boc-β-Ala-Ser(Bzl)-Asn-Leu-NHNH2
3 Grams of Boc-β-Ala-Ser(Bzl)-Asn-Leu-OEt was dissolved in 20 ml of methanol, then to this solution was added 2.4 ml of NH2NH2.H2O and the mixture was stirred overnight, further 20 ml of DMF was added to the reaction mixture and the precipitate formed was dissolved, and was stirred overnight. The reaction mixture was concentrated under reduced pressure, to the residue thus obtained was added 15 ml of water, and the precipitate formed was collected by filtration and recrystallized twice from ethanol. 1.72 Grams (yield: 58.7%) of the above-mentioned objective product was obtained.

reactant | Boc-β-Ala-Ser(Bzl)-Asn-Leu-OEt | N(CCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C30H47N5O9
reactant | NH2NH2.H2O | 2.4 ml | NN.O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | water | 15 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | Boc-β-Ala-Ser(Bzl)-Asn-Leu-NHNH2 | yield: 58.7% | N(CCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OC(C)(C)C | C28H45N7O8
